US05391541
To a suspension of 3.62 grams (0.095 mole) of lithium aluminum hydride in 200 mL of diethyl ether was added dropwise at a rate to maintain a gentle reflux a solution of 17.26 grams (0.073 mole) of methyl 2,5-dichloro-3-methoxybenzoate in 70 mL of diethyl ether. Upon completion of addition, the reaction mixture was refluxed for an additional three hours after which it was cooled in an ice-water bath. Very carefully, 5.5 mL of water, 4.5 mL of a 20% aqueous solution of sodium hydroxide, and 12 mL of water were added sequentially to the vigorously stirred reaction mixture. The reaction mixture was filtered through Celite® filter aid, which removed the finely divided precipitate. The solvent was then evaporated from the filtrate under reduced pressure, leaving an oil as the residue. The oil was dissolved in ethyl acetate, and this solution was washed twice with water and once with a saturated aqueous solution of sodium chloride. After being dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, leaving 14.22 grams of 2,5-dichloro-3-methoxyphenylmethanol as a yellow oil. This oil solidified on standing, yielding solid 2,5-dichloro-3-methoxyphenylmethanol, m.p. 58°-64° C. The NMR spectrum was consistent with the proposed structure.

reactant | lithium aluminum hydride | 0.095 mole, 3.62 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 2,5-dichloro-3-methoxybenzoate | 0.073 mole, 17.26 grams | ClC1=C(C(=O)OC)C=C(C=C1OC)Cl | C9H8Cl2O3
reactant | water | 5.5 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 12 mL | O | H2O
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 70 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,5-dichloro-3-methoxyphenylmethanol | 14.22 grams | ClC1=C(C=C(C=C1OC)Cl)CO | C8H8Cl2O2
